US05543518
2-(5--Chloro-2,4-dihydroxyphenyl)-4,6-diphen yl-s-triazine
To a 350 mL sulfonation flask equipped with a mechanical stirrer, condenser and a nitrogen atmosphere are charged 26.8 g (100 mmol) of 2-chloro-4,6-diphenyl-s-triazine, and 100 mL of xylene (mixture of isomers). To the beige suspension are added 14.9 g (112 mmol) of aluminum chloride in one portion. The mixture is warmed to ca. 80° C. for 2 hours. 17.4 g (120 mmol) of 4-chlororesorcinol are then added in five portions over 40 minutes to the now homogeneous solution. The reaction mixture is heated at 90° C. for 42 hours and refluxed for another 24 hours. After cooling to room temperature, the contents of the flask are poured into 100 mL of 12% aqueous hydrochloric acid. The precipitate formed is removed by filtration, washed to pH 7 with water, rinsed with methanol and dried at 70° C. under vacuum. The title compound is obtained as a crude ocher-red product (29.5 g) and melts at 255°-265° C. It can be used without further purification.

reactant | 2-chloro-4,6-diphenyl-s-triazine | 100 mmol, 26.8 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
reactant | aluminum chloride | 112 mmol, 14.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlororesorcinol | 120 mmol, 17.4 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(5--Chloro-2,4-dihydroxyphenyl)-4,6-diphen yl-s-triazine | ClC=1C(=CC(=C(C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)O)O | C21H14ClN3O2
